US07582652B2
Dissolve {6-[2-(2,6-difluoro-phenyl)-5-(4-fluoro-phenyl)-3H-imidazol-4-yl]-3-nitro-pyridin-2-yl}-(1(R),2,2-trimethyl-propyl)-amine (673 mg, 1.4 mmol) in 100% ethanol (15 mL) and add tin(II) dichloride dihydrate (1.5 g, 6.8 mmol, 5 equiv). Heat the reaction mixture until starting material is consumed. Cool the reaction solution to room temperature, quench slowly with saturated aqueous NaHCO3. Add Celite® to the quenched reaction and filter the suspension on a Celite® pad, washing with water and ethyl acetate. Separate the layers and wash the organic layer with saturated aqueous NaCl. Dry the organic layer with Na2SO4, filter, and concentrated under reduced pressure. Add 10% aqueous ethanol (14 mL) and cyanogen bromide (216 mg, 2.04 mmol, 1.5 equiv) to the residue and stir overnight. Quench with saturated aqueous NaHCO3 (20 mL). Add ethyl acetate and water to dissolve all solids. Wash the organic layer is with saturated aqueous NaCl, dry with Na2SO4, filter, and concentrate under reduced pressure. Subject the residue to medium pressure silica gel chromatography eluting with a gradient of 1.5-3% (2M ammonia in MeOH)/CH2Cl2 to provide 5-[2-(2,6-difluoro-phenyl)-5-(4-fluoro-phenyl)-3H-imidazol-4-yl]-3-(1(R),2,2-trimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-ylamine as a tan glass (289 mg, 43% yield).

reactant | {6-[2-(2,6-difluoro-phenyl)-5-(4-fluoro-phenyl)-3H-imidazol-4-yl]-3-nitro-pyridin-2-yl}-(1(R),2,2-trimethyl-propyl)-amine | 1.4 mmol, 673 mg | FC1=C(C(=CC=C1)F)C1=NC(=C(N1)C1=CC=C(C(=N1)N[C@@H](C(C)(C)C)C)[N+](=O)[O-])C1=CC=C(C=C1)F | C26H24F3N5O2
reactant | tin(II) dichloride dihydrate | 6.8 mmol, 1.5 g, 5 equiv | O.O.[Sn](Cl)Cl
reactant | cyanogen bromide | 2.04 mmol, 216 mg, 1.5 equiv | N#CBr | CBrN
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethanol | 14 mL | C(C)O | C2H6O
product | 5-[2-(2,6-difluoro-phenyl)-5-(4-fluoro-phenyl)-3H-imidazol-4-yl]-3-(1(R),2,2-trimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | 289 mg, 43% yield | FC1=C(C(=CC=C1)F)C1=NC(=C(N1)C1=CC=C2C(=N1)N(C(=N2)N)[C@@H](C(C)(C)C)C)C2=CC=C(C=C2)F | C27H25F3N6
